US05643950
1-{[4-(3,3,3-triphenylpropoxy)phenyl]methyl}pyridinium chloride.
A solution of 4-(3,3,3-triphenylpropoxy)benzyl chloride, prepared in example 28, (210 mg, 0.51 mmol) in pyridine (1.0 mL) was refluxed for two minutes, and concentrated. The residue was recrystallized from acetonitrile-ethyl acetate and dried at 90° under high vacuum for 18 hours, providing the title compound as a monohydrate, a white powder, mp 155°-159° C. (212 mg, 86%). 1H NMR (CDCl3) δ 9.56 (d, J=7.5 Hz, 2H), 8.31 (t, J=7.5 Hz, 1H), 7.94 (t, J=7.5 Hz, 2H), 7.54 (d, J=8.6 Hz, 2H) 7.15-7.35 (m, 15H), 6.68 (d, J=8.6 Hz, 2H), 3.68 (t, J=7.7 Hz, 2H), 3.09 (t, J=7.7 Hz, 2H). Anal. calcd. for C33H30NO.Cl.H2O: C, 77.71; H, 6.32; N, 2.75; Cl, 6.95. Found: C, 77.47; H, 6.27; N, 2.63; Cl, 6.65.

reactant | 4-(3,3,3-triphenylpropoxy)benzyl chloride | C1(=CC=CC=C1)C(CCOC1=CC=C(CCl)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H25ClO
reactant | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | 1-{[4-(3,3,3-triphenylpropoxy)phenyl]methyl}pyridinium chloride | [Cl-].C1(=CC=CC=C1)C(CCOC1=CC=C(C=C1)C[N+]1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H30NO.ClH/c1-5-13-29(14-6-1)33(30-15-7-2-8-16-30,31-17-9-3-10-18-31)23-26-35-32-21-19-28(20-22-32)27-34-24-11-4-12-25-34;/h1-22,24-25H,23,26-27H2;1H/q+1;/p-1
